US07612075B2
C. (±)-1-(4-Amino-quinazolin-7-ylmethyl)-4-[(5-chloro-thiophen-2-yloxy)-acetyl]-6-oxo-piperazine-2-carboxylic acid methyl ester.
A solution containing (±)-1-(3-amino-4-cyano-benzyl)-4-[(5-chloro-thiophen-2-yloxy)-acetyl]-6-oxo-piperazine-2-carboxylic acid methyl ester (110 mg, 0.25 mmol), 1,3,5-triazine (207 mg, 2.55 mmol), and glacial HOAc (157 mg, 2.55 mmol) in absolute EtOH (5 mL) is maintained at reflux for 16 hours. The reaction mixture is concentrated to dryness and then purified by reverse-phase HPLC [Buffer A: water w/0.1% TFA; Buffer B: CH3CN w/0.1% TFA; Gradient: 0% B to 60% B over 30 min] to provide 50 mg (32%) of the title compound as a white solid. 1H NMR (300 MHz, d6-DMSO) δ3.34-3.89 (m, 2H), 3.60 (s, 3H), 4.14-4.54 (m, 3H), 4.64 (br d, J=14.4 Hz, 1H), 4.78-5.11 (m, 3H), 6.19 (d, J=4.1 Hz, 1H), 6.73 (d, J=4.1 Hz, 1H), 7.64 (s, 1H), 7.65 (d, J=9.0 Hz, 1H), 8.34 (d, J=9.0 Hz, 1H), 8.79 (s, 1H), 9.71 (br s, 2H) ppm; MS (ion spray): m/z 490 (M+H).

reactant | (±)-1-(3-amino-4-cyano-benzyl)-4-[(5-chloro-thiophen-2-yloxy)-acetyl]-6-oxo-piperazine-2-carboxylic acid methyl ester | 0.25 mmol, 110 mg | COC(=O)C1N(C(CN(C1)C(COC=1SC(=CC1)Cl)=O)=O)CC1=CC(=C(C=C1)C#N)N | C20H19ClN4O5S
reactant | 1,3,5-triazine | 2.55 mmol, 207 mg | N1=CN=CN=C1 | C3H3N3
reactant | HOAc | 2.55 mmol, 157 mg | CC(=O)O | C2H4O2
solvent | EtOH | 5 mL | CCO | C2H6O
product | (±)-1-(4-Amino-quinazolin-7-ylmethyl)-4-[(5-chloro-thiophen-2-yloxy)-acetyl]-6-oxo-piperazine-2-carboxylic acid methyl ester | 50 mg, 32% | COC(=O)C1N(C(CN(C1)C(COC=1SC(=CC1)Cl)=O)=O)CC1=CC=C2C(=NC=NC2=C1)N | C21H20ClN5O5S
